US07531532B2
2-{[4-(1-Methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}-4-{4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine
To a solution of 4-(4-aminophenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine (153 mg) and (+)-10-camphorsulfonic acid (162 mg) in ethanol (4.0 ml) was added a solution of 2-phenylacetyl isothiocyanate in toluene (0.25 M, 2.93 ml) at room temperature, followed by stirring for 3 hours. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=98:2) to provide the titled compound (71.8 mg, 33%) as white powder.

reactant | 4-(4-aminophenoxy)-2-{[4-(1-methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}pyridine | 153 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C2CCN(CC2)C)C=C1 | C22H30N6O2
reactant | (+)-10-camphorsulfonic acid | 162 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 2-phenylacetyl isothiocyanate | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
solvent | ethanol | 4.0 ml | C(C)O | C2H6O
solvent | toluene | 0.25 M, 2.93 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{[4-(1-Methylpiperidin-4-yl)piperazin-1-yl]carbonylamino}-4-{4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine | 71.8 mg, 33% | CN1CCC(CC1)N1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C31H37N7O3S
